US05563144
1.35 g of 4-(4-fluorophenyl)piperazine, 1.84 g of 1-(3-chloropropyl)-2-perimidinone and 0.66 g of sodium bicarbonate, in 25 cm3 of dry N,N-dimethylformamide are stirred at the reflux temperature of the solvent for 2 hours. The reaction mixture is cooled and poured into a mixture of 20 cm3 of water and 25 cm3 of dichloro-methane. The organic phase is decanted, washed with water (3×15 cm3), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column under a pressure of 0.7 bar of nitrogen, eluting with ethyl acetate. 0.65 g of 1-{3-[4-(4-fluorophenyl)-1-piperazinyl]-propyl }-2-perimidinone is thus obtained; melting point =206° C.

reactant | 4-(4-fluorophenyl)piperazine | 1.35 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 1-(3-chloropropyl)-2-perimidinone | 1.84 g | ClCCCN1C(NC2=CC=CC3=CC=CC1=C23)=O | C14H13ClN2O
reactant | sodium bicarbonate | 0.66 g | C([O-])(O)=O.[Na+]
reactant | water | 20 cm3 | O | H2O
solvent | N,N-dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
solvent | dichloro-methane | 25 cm3 | ClCCl | CH2Cl2
product | 1-{3-[4-(4-fluorophenyl)-1-piperazinyl]-propyl }-2-perimidinone | 0.65 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCN1C(NC2=CC=CC3=CC=CC1=C23)=O | C24H25FN4O
